US09315493B2
Process 1: Under argon atmosphere, tetrahydrofuran (900 mL) solution of 2-[5-(bromomethyl)pyridin-2-yl]benzonitrile (31.9 g, 117 mmol), methyl 3-oxoheptanoate (27.8 g, 176 mmol), diisopropylethylamine (31.0 g, 240 mmol), and lithium chloride (8.2 g, 193 mmol) was refluxed under heating for 23 hours. The reaction mixture was added water and extracted with ethyl acetate. The organic layer was combined, washed with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The obtained residues were subjected to silica gel column chromatography (hexane/ethyl acetate=2:1) to give methyl 2-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-3-oxoheptanoate (20.9 g, 51%) as brown oil.

reactant | 2-[5-(bromomethyl)pyridin-2-yl]benzonitrile | 117 mmol, 31.9 g | BrCC=1C=CC(=NC1)C1=C(C#N)C=CC=C1 | C13H9BrN2
reactant | methyl 3-oxoheptanoate | 176 mmol, 27.8 g | O=C(CC(=O)OC)CCCC | C8H14O3
reactant | diisopropylethylamine | 240 mmol, 31.0 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | lithium chloride | 193 mmol, 8.2 g | [Cl-].[Li+]
solvent | water | O | H2O
solvent | tetrahydrofuran | 900 mL | O1CCCC1 | C4H8O
product | methyl 2-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-3-oxoheptanoate | 20.9 g, 51% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=N1)CC(C(=O)OC)C(CCCC)=O | C21H22N2O3
